US08232289B2
1.0 M diethylzinc in hexane (365.7 mL, 3.5 mmol) is added under nitrogen to dichloromethane (0.9 mL). The solution is cooled to 0° C. and a solution of trifluoroacetic acid (268.4 μL, 3.5 mmol) in dichloromethane (0.9 mL) is added very slowly. After 20 min a solution of diiodomethane (286.1 mL, 3.5 mmol) in dichloromethane (0.9 mL) is added. After an additional 20 min, a solution of 3-methyl-1-(3-vinyloxymethyl-pyridin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (510 mg, 1.8 mmol) in dichloromethane (0.9 mL) is added. The mixture is stirred at room temperature overnight. 5% HCl is added and the aqueous layer is extracted with ethyl acetate. The organic layer is separated, dried over sodium sulfate and the solvent is eliminated under reduced pressure. The crude is purified by normal phase Isco chromatography using hexane and ethyl acetate as eluents (5-20% in ethyl acetate) to get 310 mg of ethyl 1-[3-(cyclopropoxymethyl)-2-pyridyl]-3-methyl-pyrazole-4-carboxylate. MS (m/z): 302 (M+1)

reactant | diethylzinc | 1.0 M | C(C)[Zn]CC
reactant | hexane | 3.5 mmol, 365.7 mL | CCCCCC | C6H14
reactant | trifluoroacetic acid | 3.5 mmol, 268.4 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | diiodomethane | 3.5 mmol, 286.1 mL | ICI | CH2I2
reactant | 3-methyl-1-(3-vinyloxymethyl-pyridin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.8 mmol, 510 mg | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC=C1COC=C)C | C15H17N3O3
reactant | HCl | Cl | ClH
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
product | ethyl 1-[3-(cyclopropoxymethyl)-2-pyridyl]-3-methyl-pyrazole-4-carboxylate | 310 mg | C1(CC1)OCC=1C(=NC=CC1)N1N=C(C(=C1)C(=O)OCC)C | C16H19N3O3
